Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
back and abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with hx of CAD s/p stent, hypothyroidism who was 
recently admitted ___ after a fall (w/no fx noted at that 
time), now returning w/continuing back pain and abdominal pain. 

On ___ she presented to the ED after being found on the floor 
of the kitchen by her daughter, with un-witnessed fall. She 
reports that she was walking across the kitchen floor when she 
suddenly lost her balance. Denies any dizziness, nausea, warmth, 
CP, palpitations - she just felt off-balance and fell. No LOC. 
She was admitted because she was mildly hypoxic in the ED. CT 
C,T, and L spine were negative for new fracture at that time (CT 
C-Spine showed chronic odontoid
fracture and chronic L1 compression fracture, both managed
non-operatively by neurosurgery). Per discharge summary, "work 
up negative here for cardiac or neurologic etiology;" unclear 
exactly what was done, but she had no ECHO, did have carotid 
imaging that showed Right ICA 40-59 % stenosis and Left ICA  
40-59% stenosis.  She worked ___ and was tx with Tylenol and 
low dose oxycodone for pain.  Hypoxia resolved w/ambulation and 
with IS.

After discharge she had ongoing back pain and new abdominal 
pain. She was treated with low dose oxycodone but hasn't been 
taking month. Last stool was 3 days ago, also not passing flatus 
she believes. The back pain has now moved to the ABD as well. 
She denies numbness, weakness, tingling, bowel or bladder 
changes.  She reports she is able to ambulate without 
difficulty.

Of note she also had a fall in ___ when she lost balance 
walking up the stairs. She had another fall 1.5 mo ago when she 
lost balance on the walkway to her daughter's house; that time 
she did experience some dizziness. She denies any chronic 
disequilibrium or numbness/tingling in the legs.

In the ED, initial vitals were: 96.2 60 175/56 20 96% RA
Labs were notable for: Cr 1.1 up from 0.9 on discharge, with BUN 
37 up from 17 at discharge. Lactate 1.3. UA neg. 
Patient was given: 
___ 11:32 IV Morphine Sulfate 2 mg 
___ 11:32 IV Ondansetron 4 mg 
___ 11:32 IVF 1000 mL NS 1000 mL 
___ 18:22 PO Magnesium Citrate 300 mL 
Consults: Seen by ortho spine who stated that she is 
neurologically intact and declined any surgical intervention.
CT abdomen/pelvis incidentally showed T10 burst fracture with 
25% loss of height and 3mm retropulsion. 

On the floor, she continues to complain of abd pain and still 
hasn't had a BM.

 
Past Medical History:
PMH:
Hypertension
PVD
CAD, prior stent
Prior CEA on right
Hypothyroidism

 
Social History:
___
Family History:
___:
No syncope.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.4 ___ 68 20 98 RA 
General: Alert, oriented, no acute distress, conversant and good 
historian
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, diffusely mildly tender, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Bilateral dark discoloration c/w venous stasis changes 
over anterior shins bilaterally
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. No problem w/FNF. 

DISCHARGE PHYSICAL EXAM
Vitals: T 98.1 BP 124/61 HR 81 RR 16 93 RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Faint crackles at bases bilaterally, no wheezes
Abdomen: Soft, non tender, mild distension, bowel sounds 
present, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no clubbing, cyanosis or edema.
Neuro: CN II-XII intact, ___ ___ strength, SILT ___ and ___

 
Pertinent Results:
ADMISSION LABS:

___ 11:15AM   PLT COUNT-202
___ 11:15AM   NEUTS-60.5 ___ MONOS-10.0 EOS-3.9 
BASOS-0.9 IM ___ AbsNeut-5.73 AbsLymp-2.28 AbsMono-0.95* 
AbsEos-0.37 AbsBaso-0.09*
___ 11:15AM   WBC-9.5 RBC-3.86* HGB-12.1 HCT-37.7 MCV-98 
MCH-31.3 MCHC-32.1 RDW-14.3 RDWSD-51.0*
___ 11:15AM   ALBUMIN-4.2 CALCIUM-9.3 PHOSPHATE-3.0 
MAGNESIUM-3.2*
___ 11:15AM   LIPASE-21
___ 11:15AM   ALT(SGPT)-12 AST(SGOT)-25 ALK PHOS-73 TOT 
BILI-0.4
___ 11:15AM   GLUCOSE-110* UREA N-37* CREAT-1.1 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-30 ANION GAP-14
___ 11:37AM   LACTATE-1.3
___ 11:37AM   TYPE-MIX COMMENTS-GREEN TOP
___ 12:57PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 12:57PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:57PM URINE  GR HOLD-HOLD
___ 12:57PM URINE  UHOLD-HOLD
___ 12:57PM URINE  HOURS-RANDOM
___ 12:57PM URINE  HOURS-RANDOM

DISCHARGE LABS:
___ 05:45AM BLOOD WBC-10.6* RBC-4.21 Hgb-13.4 Hct-41.4 
MCV-98 MCH-31.8 MCHC-32.4 RDW-14.4 RDWSD-51.8* Plt ___
___ 05:45AM BLOOD Glucose-106* UreaN-23* Creat-1.3* Na-134 
K-5.3* Cl-97 HCO3-25 AnGap-17
___ 05:48AM BLOOD CK(CPK)-72
___ 05:45AM BLOOD Calcium-10.1 Phos-5.0* Mg-2.3

IMAGING:
XR T/L Spine ___
Mild degenerative changes at the thoracic and lumbar spine 
including mild anterolisthesis of L5 are demonstrated.  There is 
no evidence of new fracture with unchanged appearance of the 
compression fracture of L1.  The findings are better appreciated 
and delineated on the recent CT. Extensive calcifications of the 
aorta and aortic branches is demonstrated as well as calcified 
mediastinal lymph node. 

CT ABD/PELVIS
1. Subacute burst fracture of T10 with interval development of 
25% height lossand 3 mm of bony retropulsion.MR can be obtained 
for further assessment if clinically indicated.
2. No small bowel obstruction or aortic aneurysm.
3. Stable compression deformity of L1.
4. Moderate stool burden, predominately in the right colon.

 
Brief Hospital Course:
___ yo F with recent admission for fall ___ with no acute 
pathology identified at that time, who returns  with continued 
back pain and new abdominal pain, found to have T10 burst 
fracture.

ACTIVE ISSUES:

# T10 burst fracture: ___ recent fall. She was evaluated by 
ortho spine and found to have no neurologic deficits on exam, so 
conservative management ___ and pain control was recommended. 
This fracture was  are most likely osteoporotic in origin given 
non-traumatic nature (fall from standing height). She was 
treated with tylenol, low dose oxycodone, and nasal calcitonin 
for pain. She was started on calcium, vit D. She was fitted for 
a TLSO brace prior to discharge discharge and ambulating with 
brace and assistance.

#Multiple falls: She reported falls in ___ and again one month 
prior to this admission. Inpatient work-up included an EKG (no 
chnage), monitoring on tele (no arrythmia noted), and ___ 
evaluation of her balance was within normal limits.  Her falls 
seemed most likely to be mechanical in origin. Head CT negative 
on ___. 

# Abdominal pain: This was due to constipation and resolved with 
an aggressive bowel regimen, even though patient did not have 
regular bowel movements during her hospital course.

#Mild ___: BUN 37, Cr 1.1 on admission. These were increased 
from her recent discharge labs. This was most likely prerenal 
___ in setting of poor PO intake. She got a total of 2L IVF 
during her admission. Cr at discharge was 1.3 in setting of 
continuing decreased PO intake because she did not like the 
food. Losartan was also held. 

#Hyperkalemia: Unclear etiology, but patient was put on low 
potassium diet, losartan and heparin were discontinued. On 
discharge, patient's potassium was downtrending and within 
normal range.

CHRONIC ISSUES:

#Hypertension: BPs normotensive on the floor even after losartan 
discontinued. She continued on metoprolol; home losartan held in 
setting ___ and ___ potassium.

#Prior CAD s/p stent: No chest pain. She continued on ASA 81 mg 
po daily.

# Hypothyroidism: continued home levothyroxine.

TRANSITIONAL ISSUES:

#Osteoporosis: She should continue calcium and vitamin D. Please 
discuss risks and benefits of bisphosphonate therapy. Monitor 
phosphorus within the next 2 weeks and consider stopping vitamin 
D therapy if persistently elevated phosphorus.

#Constipation: She should continue to take aggressive bowel 
regimen daily while taking oxycodone. Consider increasing PEG if 
senna/Colace are not helping.

#Multiple falls: Please consider additional work-up for falls as 
warranted and based on reported cardiac or neuro symptoms. At 
this time she has no clear source of her falls besides 
mechanical falls.

#Back pain: Discharged on short course of oxycodone and with 
calcitonin. Stop calcitonin when pain is improved or within 1 
month of injury. 

#Low potassium diet - Hyperkalemia believed to be mainly due to 
CKD (CrCl = 42).

#Please draw CBC & electrolytes ___ to monitor potassium, 
Cr, and phosphorous.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Losartan Potassium 25 mg PO DAILY 
6. meloxicam 15 mg ORAL DAILY:PRN pain 
7. Senna 8.6 mg PO BID:PRN c 
8. Docusate Sodium 100 mg PO BID 
9. Acetaminophen 650 mg PO Q8H 
10. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 300 mg PO TID 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 2.5 mg by mouth q4PRN Disp #*9 Capsule 
Refills:*0
8. Senna 8.6 mg PO BID:PRN c 
9. Calcitonin Salmon 200 UNIT NAS DAILY 
10. Calcium Carbonate 500 mg PO AT LUNCH AND DINNER 
11. Polyethylene Glycol 17 g PO BID 
12. Vitamin D 800 UNIT PO DAILY 
13. meloxicam 15 mg ORAL DAILY:PRN pain 
14. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
15. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
osteoporosis
t10 burst fracture
constipation
hyperkalemia

SECONDARY DIAGNOSES:
history of CAD
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ because you had a broken bone in your 
spine causing you pain. You also had constipation. We treated 
your spinal fracture with pain medications and you were given a 
brace to wear. We treated your constipation with laxatives. 

When you leave, please continue to take the sennna and colace 
for your constipation every day, even if you're having regular 
bowel movements, for as long as you are taking the oxycodone.

Orthopedics recommend that you mobilize as tolerated, use your 
brace for comfort if needed, and follow up with Dr. ___ in ___ 
weeks from discharge.

Information regarding any follow up appointments and discharge 
medications can be found below.

It was a pleasure to care for you!
Your ___ team
 
Followup Instructions:
___